US04212879
12.0 g (52.4 mmole) of methyl 4-benzoyl-2-pyrrolecarboxylate, 8.79 g (157 mmole) of potassium hydroxide and 10.5 g (210 mmole) of hydrazine hydrate are dissolved in 150 ml of triethylene glycol. Reaction is carried out by stirring the solution at 120° C. for 2 hours and then at 160° C. for 3 hours in an atmosphere of nitrogen gas. After reaction is finished, the reaction solution is allowed to cool and poured into ice water, followed by extraction with ether. The extract is washed with water saturated with sodium chloride and concentrated. The residue is distilled under reduced pressure to obtain 5.86 g of 3-benzylpyrrole as a colorless liquid. Yield 71.2%. nD29.5 1.5790. Boiling point 95°-98° C. (0.09 mmHg).

reactant | methyl 4-benzoyl-2-pyrrolecarboxylate | 52.4 mmole, 12.0 g | C(C1=CC=CC=C1)(=O)C=1C=C(NC1)C(=O)OC | C13H11NO3
reactant | potassium hydroxide | 157 mmole, 8.79 g | [OH-].[K+]
reactant | hydrazine hydrate | 210 mmole, 10.5 g | O.NN
solvent | triethylene glycol | 150 ml | C(COCCOCCO)O | C6H14O4
product | 3-benzylpyrrole | 5.86 g, Yield 71.2% | C(C1=CC=CC=C1)C1=CNC=C1 | C11H11N
